US04704477
Preparation of 1,4,6-trimethylcyclohex-3-ene-1-carboxylic acid methyl ester
0.2 moles (8 ml) methanol, 0.15 moles (12 ml) pyridine and 50 ml toluene were put in a 100-ml beaker with a magnetic stirrer, and the crude product as per (b) was (1,4,6-trimethylcyclohex-3-en-1-carboxylic acid chloride) added dosewise with vigorous stirring. The reaction mixture was stirred for another hour at room temperature and then 25 ml water and 5 ml concentrated hydrochloric acid were added to it. Then the phases were separated, the organic phase dried with sodium sulfate and distilled via the Vigreux column after removal of the solvent.

reactant | methanol | 0.2 moles, 8 ml | CO | CH4O
reactant | pyridine | 0.15 moles, 12 ml | N1=CC=CC=C1 | C5H5N
reactant | 1,4,6-trimethylcyclohex-3-en-1-carboxylic acid chloride | CC1(CC=C(CC1C)C)C(=O)Cl | C10H15ClO
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | 25 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4,6-trimethylcyclohex-3-ene-1-carboxylic acid methyl ester | COC(=O)C1(CC=C(CC1C)C)C | C11H18O2
